US07615562B2
A solution of 2-methyl-4-thiophen-2-yl-butan-2-ol (340 mg, 2 mmol)—synthesis see Step A of Example 1—in 20 ml of THF was treated with LDA (2M in THF/heptane/ethylbenzene, 5 ml, 10 mmol) at −78° C. under nitrogen and the mixture was stirred for 5 minutes. Then, trimethylborate (1.1 ml, 10 mmol) was added in one portion and the cooling bath was removed. After 15 minutes, the mixture was quenched with 50 ml of saturated ammonium chloride solution and extracted twice with ether. The aqueous layer was then acidified with 2N-HCl and extracted once more with ether. The combined organic extracts were washed with brine and evaporated. This crude boronic acid was redissolved in 10 ml of DME and added to a stirred suspension 4-chloro-5-methoxy-2-methylsulfanyl-pyrimidine (190 mg, 1 mmol), Pd(PPh3)4 (23 mg, 0.02 mmol), 20 ml of DME and 3 ml of a 10% solution of sodium bicarbonate. This mixture was then kept at reflux (100° C. heat bath) for 90 minutes. After cooling, most of the DME was evaporated and the crude was partitioned between water and ether. The organic layer was separated, washed with 0.2N-HCl, water and brine, dried over sodium sulfate and evaporated. The crude was purified by chromatography on silicagel (EtOAc/hexane:1/1) to give 4-[5-(5-methoxy-2-methylsulfanyl-pyrimidin-4-yl)-thiophen-2-yl]-2-methyl-butan-2-ol. Yield: 275 mg (85%).

reactant | 2-methyl-4-thiophen-2-yl-butan-2-ol | 2 mmol, 340 mg | CC(C)(CCC=1SC=CC1)O | C9H14OS
reactant | LDA | 10 mmol, 2M, 5 ml | [Li+].CC(C)[N-]C(C)C
reactant | trimethylborate | 10 mmol, 1.1 ml | COB(OC)OC | C3H9BO3
reactant | 4-chloro-5-methoxy-2-methylsulfanyl-pyrimidine | 1 mmol, 190 mg | ClC1=NC(=NC=C1OC)SC | C6H7ClN2OS
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 0.02 mmol, 23 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME | COCCOC | C4H10O2
solvent | DME | 20 ml | COCCOC | C4H10O2
product | 4-[5-(5-methoxy-2-methylsulfanyl-pyrimidin-4-yl)-thiophen-2-yl]-2-methyl-butan-2-ol | COC=1C(=NC(=NC1)SC)C1=CC=C(S1)CCC(C)(O)C | C15H20N2O2S2
